US05958942
ii) Synthesis of 1,2-dihydro-1-[1-(trifluoromethanesulfonyl)piperidin-4-ylmethyl]-3-methyl-1,4,7b-triazacyclopent[cd]inden-2-one
To a solution of 1.09 g (4.03 mmol) of 1,2-dihydro-1-(piperidin-4-ylmethyl)-3-methyl-1,4,7b-triazacyclopent[cd]inden-2-one and 0.84 ml (6.03 mmol) of triethylamine in 30 ml of methylene chloride was added 1.73 g (4.84 mmol) of N-phenyltrifluoromethanesulfonimide. The mixture was stirred for 14 hours at room temperature. The reaction mixture was washed with water, dried over anhydrous magnesium sulfate. The solvent was distilled off, and the residue was purified by column chromatography (eluent: ethyl acetate) to give 522 mg of the desired compound (32.2%, pale yellow solid).

reactant | 1,2-dihydro-1-(piperidin-4-ylmethyl)-3-methyl-1,4,7b-triazacyclopent[cd]inden-2-one | 4.03 mmol, 1.09 g | N1CCC(CC1)CN1C(C=2N3C(C=CC=C13)=NC2C)=O | C15H18N4O
reactant | triethylamine | 6.03 mmol, 0.84 ml | C(C)N(CC)CC | C6H15N
reactant | N-phenyltrifluoromethanesulfonimide | 4.84 mmol, 1.73 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 1,2-dihydro-1-[1-(trifluoromethanesulfonyl)piperidin-4-ylmethyl]-3-methyl-1,4,7b-triazacyclopent[cd]inden-2-one | 522 mg, 32.2% | FC(S(=O)(=O)N1CCC(CC1)CN1C(C=2N3C(C=CC=C13)=NC2C)=O)(F)F | C16H17F3N4O3S
